US07498440B2
1-{[(2-bromoethyl)oxy]methyl}-3-(methyloxy)benzene
A solution of N-bromosuccinimide (272 mg, 1.53 mmol) in DCM (2.5 mL) was added resin-bound triphenylphosphine (510 mg, 1.53 mEquiv, Fluka) in DCM (2.5 mL). The reaction was stirred at room temperature for 10 min. A solution of 2-({[3-(methyloxy)phenyl]methyl}oxy)ethanol (114 mg, 0.626 mmol) in DCM (1.5 mL) was added to the reaction, and the residual alcohol was transferred with additional DCM (1.5 mL). The reaction vessel was wrapped in aluminum foil and stirred at rt for 20 h. The reaction was filtered through a SPE cartridge (5 g silica) eluting with the following 10 mL fractions: DCM (fraction 1), 30% EtOAc/hexanes (fraction 2), and 50% EtOAc/hexanes (fraction 3) to give the title compound (160 mg). The product was characterized by 1H NMR (400 MHz) in CDCl3.

reactant | N-bromosuccinimide | 1.53 mmol, 272 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 510 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-({[3-(methyloxy)phenyl]methyl}oxy)ethanol | 0.626 mmol, 114 mg | COC=1C=C(C=CC1)COCCO | C10H14O3
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | aluminum | [Al] | Al
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{[(2-bromoethyl)oxy]methyl}-3-(methyloxy)benzene | 160 mg | BrCCOCC1=CC(=CC=C1)OC | C10H13BrO2
